US08110687B2
To a solution of [3-nitro-5-(trifluoromethyl)phenyl]methanol (2.80 g, 12.7 mmol) in DCM (20 mL) was added DIPEA (6.62 mL, 38.00 mmol). The reaction mixture was cooled to 0° C. tert-Butyldimethylsilyl chloride (3.82 g, 25.3 mmol) was added dropwise and the reaction mixture was allowed to stir at rt over the weekend. The reaction mixture was diluted with DCM and washed with water and brine. The organic solution was dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give tert-butyl(dimethyl)-{[3-nitro-5-(trifluoromethyl)benzyl]oxy}silane (3.71 g, 87%) as a white solid. 1H NMR (400 MHz,CDCl3, HCl salt) δ: 8.35-8.41 (m, 2H), 7.92 (s, 1H), 4.88 (s, 2H), 0.97 (s, 9H), and 0.15 (s, 6H).

reactant | [3-nitro-5-(trifluoromethyl)phenyl]methanol | 12.7 mmol, 2.80 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)CO | C8H6F3NO3
reactant | DIPEA | 38.00 mmol, 6.62 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-Butyldimethylsilyl chloride | 25.3 mmol, 3.82 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl(dimethyl)-{[3-nitro-5-(trifluoromethyl)benzyl]oxy}silane | 3.71 g, 87% | C(C)(C)(C)[Si](OCC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-])(C)C | C14H20F3NO3Si
